carry_chain_1bit_65nm

.include ./models/65nm_bulk.pm
.include ./subckt/sottocircuiti

.subckt FA_SUB       0 node1 nodeSo nodeCo nodeC nodeB nodeA   XX=1

Mn1 nodecon     nodeb     node4     0     nmos W={2*XX*Wmin} L={Lmin}
Mp1 1         nodea     node1     node1     pmos W={4*XX*Wmin} L={Lmin}

Mn2 node4     nodea     0     0     nmos W={2*XX*Wmin} L={Lmin}
Mp2 1         nodeb     node1     node1     pmos W={4*XX*Wmin} L={Lmin}

Mn3 5         nodea     0     0     nmos W={2*XX*Wmin} L={Lmin}

Mp3 4         nodea     node1     node1     pmos W={4*XX*Wmin} L={Lmin}
Mp4  nodecon     nodeb     4     node1     pmos W={4*XX*Wmin} L={Lmin}

Mn4 5         nodeb     0     0     nmos W={2*XX*Wmin} L={Lmin}

Mp5 nodecon     nodec     1     node1     pmos W={4*XX*Wmin} L={Lmin}
Mn5 nodecon     nodec     5     0     nmos W={2*XX*Wmin} L={Lmin}

Mp6 2         nodea     node1     node1     pmos W={4*XX*Wmin} L={Lmin}

Mn6 3         nodea     0     0     nmos W={2*XX*Wmin} L={Lmin} 
Mp7 2         nodeb     node1     node1     pmos W={4*XX*Wmin} L={Lmin}

Mn7 3         nodeb     0     0     nmos W={2*XX*Wmin} L={Lmin} 

Mp8 2         nodec     node1     node1     pmos W={4*XX*Wmin} L={Lmin} 

Mn8 3         nodec     0     0     nmos W={2*XX*Wmin} L={Lmin}  

Mp9 nodeson     nodecon 2     node1     pmos W={4*XX*Wmin} L={Lmin}
 
Mn9 nodeson    nodecon 3     0     nmos W={2*XX*Wmin} L={Lmin} 

Mp10 9         nodea     node1     node1     pmos W={6*XX*Wmin} L={Lmin} 
Mn10 7         nodea     0     0     nmos W={3*XX*Wmin} L={Lmin}
Mp11 8         nodeb     9     node1     pmos W={6*XX*Wmin} L={Lmin} 

Mn11 6         nodeb     7     0     nmos W={3*XX*Wmin} L={Lmin}
Mp12 nodeSon     nodec     8     node1     pmos W={6*XX*Wmin} L={Lmin} 

Mn12 nodeSon     nodec     6     0     nmos W={3*XX*Wmin} L={Lmin}

Mp13 nodeCo     nodecon node1     node1     pmos W={4*XX*Wmin} L={Lmin} 
Mn13 nodeCo     nodecon 0     0     nmos W={2*XX*Wmin} L={Lmin}   

Mp14 nodeSo     nodeSon node1     node1     pmos W={4*XX*Wmin} L={Lmin}  
Mn14 nodeSo     nodeSon 0     0     nmos W={2*XX*Wmin} L={Lmin}
.ends

*.options temp=125 tnom=125

.model p1_ra relmodel level=1 type=2
.appendmodel p1_ra pmos
.relan 315360000 0.002ns 1.4ns

.TRAN 0.002ns 1.4ns

.PARAM Y=1.33
.PARAM XX=1
.PARAM Lmin=65n
.PARAM Wmin=65n

*.meas tran delay_LH trig v(cin) val='0.9*Y*0.5' rise=1 targ v(cout) val='0.9*Y*0.5' fall=1
.meas tran delay_HL trig v(cin) val='0.9*Y*0.5' fall=1 targ v(cout) val='0.9*Y*0.5' fall=1
.meas tran delay_HL_1 trig v(cin) val='0.9*Y*0.5' fall=1 targ v(xfa_1.nodecon) val='0.9*Y*0.5' rise=1
.meas tran delay_HL_2 trig v(xfa_1.nodecon) val='0.9*Y*0.5' rise=1 targ v(cout) val='0.9*Y*0.5' fall=1

Vdd VDD 0 {0.9*Y}

Vina1 ina1 0 0

Vinb1 inb1 0 {0.9*Y}


* Francesco
*vcin cin 0 PWL(0 0 0.100ns 0 0.120ns {0.9*Y})
vcin cin 0 PWL(0 {0.9*Y} 0.100ns {0.9*Y} 0.120ns 0)


XFA_1 0 VDD out cout cin inb1 ina1 FA_SUB

xNOT4_1 0 VDD out1 out NOT4_SUB
xNOT4_2 0 VDD cout1 cout NOT4_SUB

.CONTROL
  run
.ENDC

.END
